US06180635B2
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(5-nitropyridin-2-yl)thio]thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione
A solution of lithium diisopropylamide (6.2 mmol) in anhydrous tetrahydrofuran (20 ml) was added dropwise to a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (2.00 g) in anhydrous tetrahydrofuran (40 ml) at −78° C. under nitrogen. After 20 minutes, 2,2′-dithiobis(5-nitropyridine) (1.97 g) was added and the mixture was warmed to room temperature for 1 hour. Saturated sodium hydrogen carbonate solution (200 ml) was added and the mixture was extracted with ethyl acetate (200 ml). A solid suspended in the organic extracts was collected by filtration, washed with ethyl acetate and dried in vacuo at 40° C. to give the title compound (2.14 g).

reactant | lithium diisopropylamide | 6.2 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.00 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | 2,2′-dithiobis(5-nitropyridine) | 1.97 g | [N+](=O)([O-])C=1C=CC(=NC1)SSC1=NC=C(C=C1)[N+](=O)[O-] | C10H6N4O4S2
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(5-nitropyridin-2-yl)thio]thieno[2,3-d]pyrimidine-2,4-(1H, 3H)-dione | 2.14 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SC2=NC=C(C=C2)[N+](=O)[O-])CC(C)C)=O | C27H24N4O4S2
